US07700641B2
B. Synthesis of ethyl[5-chloro-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 1C, and making non-critical variations to replace 4-bromo-1-pentyl-1H-indole-2,3-dione with ethyl(5-chloro-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate, and 1,3-benzodioxol-5-ol with 2,3-dihydrobenzofuran-6-ol, the title compound was obtained (85%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 8.70 (br, 1H), 7.31-7.24 (m, 2H), 6.92 (d, 1H), 6.68 (s, 1H), 6.46 (s, 1H), 4.53-4.46 (m, 2H), 5.09-4.40 (d, 2H), 4.18 (q, 2H), 3.08-2.88 (m, 2H), 1.23 (t, 3H); MS (ES+) m/z 387.8 (M−17).

reactant | 4-bromo-1-pentyl-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)=O | C13H14BrNO2
reactant | ethyl(5-chloro-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate | C(C)OC(CN1C(C(C2=CC(=CC=C12)Cl)=O)=O)=O | C12H10ClNO4
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 2,3-dihydrobenzofuran-6-ol | O1CCC2=C1C=C(C=C2)O | C8H8O2
product | ethyl[5-chloro-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC(=CC=C12)Cl)(C=1C(=CC2=C(CCO2)C1)O)O)=O)=O | C20H18ClNO6
